US04966907
2,3-dihydro-4-methyl-6-(propen-3-yl) 5-benzofuranol (37)
In a manner analogous to that described above for 2a, 36 (1.00 g, 6.66 mmol) was alkylated with allyl bromide (1.76 g, 14.6 mmol) to give the allyl ether. The allyl ether (1.23 g) was thermally rearranged in 1,2-dichlorobenzene (8 mL) at 190° C. for 3.5 hours to afford, after chromatographic purification, compound 37. Recrystallization from hexane gave an analytical sample. 37: mp 60°-61° C.

reactant | allyl ether | 1.23 g | C(C=C)OCC=C | C6H10O
solvent | 1,2-dichlorobenzene | 8 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2,3-dihydro-4-methyl-6-(propen-3-yl) 5-benzofuranol | CC1=C(C(=CC2=C1CCO2)CC=C)O | C12H14O2
